US07977475B2
Preparation of Faropenem Sodium Hemipentahydrate
Allyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3-[(2R)-tetrahydrofuran-2-yl]-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (72 g, 0.221 mol) was dissolved in methylene chloride (950 ml). The solution was cooled to 10° C. and triphenyl phosphine (2.0 g, 0.0076 mol), sodium-2-ethylhexanoate (39.71 g, 0.239 mol) and tetrakis triphenylphosphine palladium (0) (2.0 g) were added together at 10° C. The reaction mixture was stirred for 1-2 hours at 10-15° C. After the completion of reaction, water (50 ml) was added to the reaction mixture. The reaction mixture was stirred for 15 minutes, followed by the addition of acetone (332.5 ml) and the reaction mixture was cooled to 0° C. The solid so separated from the reaction mixture was filtered, washed with acetone and dried under reduced pressure to obtain the title compound.

reactant | Allyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3-[(2R)-tetrahydrofuran-2-yl]-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.221 mol, 72 g | O[C@H](C)[C@@H]1[C@H]2SC(=C(N2C1=O)C(=O)OCC=C)[C@@H]1OCCC1 | C15H19NO5S
reactant | triphenyl phosphine | 0.0076 mol, 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium 2-ethylhexanoate | 0.239 mol, 39.71 g | [Na].C(C)C(C(=O)[O-])CCCC
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 950 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 332.5 ml | CC(=O)C | C3H6O
product | Faropenem Sodium Hemipentahydrate | C[C@H]([C@@H]1[C@@H]2N(C1=O)C(=C(S2)[C@H]3CCCO3)C(=O)O)O | C12H15NO5S
